US07018997B2
Step 5: 5R),(6Z)-6-(imidazo[2,1-b]bebzothiazol-7-ylmethylene)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid:
4-Nitrobenzyl-6-[(acetyloxy) (imidazo[2,1-b][1,3]benzothiazol-7-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (900 mg, 1.4 mmol) was dissolved in THF (20 mL) and acetonitrile (20 mL) and 0.5 M phosphate buffer (pH 6.5, 20 mL) and hydrogenated over Pd/C (10%) at 40 psi pressure for 6 hrs. The reaction vessel was covered with foil to exclude light. The reaction mixture was filtered, cooled to 3° C., and 0.1 N NaOH was added to adjust the pH to 8.5. The filtrate was concentarted and the aqueous layer was washed with ethyl acetate. The aqueous layer was separated. The aqueous layer was concentrated under high vacuum at 35° C. to give a yellow precipitate. The product was purified by HP21 resin reverse phase column chromatography. Initially the column was eluted with deionized water (2 L) and latter with 10% acetonitrile:water. The fractions containing the product were collected and concentrated under reduced pressure at room temperature. The yellow solid was washed with acetone, filtered and dried. Yield: 180 mg, 36%; as yellow crystals; mp 235° C.; (M+H+Na) 378.

reactant | 4-Nitrobenzyl-6-[(acetyloxy) (imidazo[2,1-b][1,3]benzothiazol-7-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.4 mmol, 900 mg | [N+](=O)([O-])C1=CC=C(CC2=C(N3C(C(C3S2)(Br)C(C2=CC3=C(N4C(S3)=NC=C4)C=C2)OC(C)=O)=O)C(=O)[O-])C=C1
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | phosphate | 0.5 M, 20 mL, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | O=C1CC2SC=C(N12)C(=O)O | C6H5NO3S
